US07612075B2
3-(5-Chloro-thiophen-2-yl)-3-oxo-propionic acid tert-butyl ester
A 0.25M THF solution of tert-butyl acetate (2.90 g, 25 mmol) is added dropwise to a cold (−78° C.) solution of potassium bis(trimethylsilyl)amide (100 ml of a 0.5M toluene solution) and ethyl 5-chlorothiophene-2-carboxylate (Lancaster)(4.77 g, 25 mmol) in 50 ml of THF. The reaction is allowed to warm to 0° C. over one hour. After stirring an additional hour at 0° C., the reaction is poured into 100 ml of a 1M HCl solution. The organic layer is extracted with brine and evaporated in vacuo. The crude residue is purified by flash column chromatography eluting with 5% ethyl acetate/hexane to provide the product (4.54 g, 17 mmol) as an oil. 1H NMR (CDCl3, 300 MHz) δ7,53 (d, 1H), 6.98 (d, 1H), 3.78 (3, 2H), 1.50 (s, 9H).

reactant | tert-butyl acetate | 25 mmol, 2.90 g | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | potassium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | ethyl 5-chlorothiophene-2-carboxylate | 25 mmol, 4.77 g | ClC1=CC=C(S1)C(=O)OCC | C7H7ClO2S
reactant | HCl | 1M | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 0.25M | C1CCOC1 | C4H8O
solvent | toluene | 0.5M | C1(=CC=CC=C1)C | C7H8
product | 3-(5-Chloro-thiophen-2-yl)-3-oxo-propionic acid tert-butyl ester | 17 mmol, 4.54 g | C(C)(C)(C)OC(CC(=O)C=1SC(=CC1)Cl)=O | C11H13ClO3S
